US05446161
In a manner analogous to that described in Example 19(i), 3.10 g of N-(benzyloxycarbonyl)-3-(4-methoxyphenyl)-L-alanine were treated with isobutyl chloroformate followed by diazomethane to give 2.83 g of benzyl [2-(4-methoxyphenyl)-l(S)-(2-diazoacetyl)ethyl]carbamate as a pale yellow solid of melting point 88°-90° C.

reactant | N-(benzyloxycarbonyl)-3-(4-methoxyphenyl)-L-alanine | 3.10 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O | C18H19NO5
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | benzyl [2-(4-methoxyphenyl)-l(S)-(2-diazoacetyl)ethyl]carbamate | 2.83 g | COC1=CC=C(C=C1)C[C@@H](C(C=[N+]=[N-])=O)NC(OCC1=CC=CC=C1)=O | C19H19N3O4
